US07723333B2
tert-Butyl 3-(2-aminoethyl)azetidine-1-carboxylate
tert-Butyl 3-(2-amino-2-oxoethyl)azetidine-1-carboxylate (70 mg, 0.327 mmol) was dissolved in THF (2 mL) and cooled on an ice-bath. Borane dimethyl sulfide complex (0.41 mL, 2M in THF) was added dropwise, whereafter the mixture was refluxed for 6 h. The reaction mixture was allowed to attain rt and a mixture of DIPEA:MeOH (0.6 mL, 1:2) and iodine (166 mg, 0.654 mmol) was added. The mixture was stirred at rt overnight and then evaporated to dryness. Water (5 mL) and EtOAc (5 mL) were added to the residue an the two phases were separated. Saturated, aqueous NaHCO3 (1 mL) was added into the water phase, and it was extracted with EtOAc (5 mL×4). NaOH (1M, ca 1 mL) was added into the water phase and it was extracted with EtOAc (5 mL×2). The extracts were combined, dried (Na2SO4) and evaporated, and the residue was purified by using an ion exchange column (ISOLUTE PRS, 2 g/15 mL), eluting with MeOH and DCM (10:90), then MeOH and then MeOH (saturated with NH3) to give the title compound (35 mg, 53.5%). 1H NMR (400 MHz, CDCl3): 1.41 (s, 9H), 1.71 (dt, 2H), 2.49-2.60 (m, 1H), 2.64 (t, 2H), 3.54 (dd, 2H), 3.99 (t, 2H); 13C NMR (100 MHz, CDCl3): 26.6, 28.3, 38.3, 39.8, 54.3 (br), 79.1, 156.3.

reactant | tert-Butyl 3-(2-amino-2-oxoethyl)azetidine-1-carboxylate | 0.327 mmol, 70 mg | NC(CC1CN(C1)C(=O)OC(C)(C)C)=O | C10H18N2O3
reactant | Borane dimethyl sulfide | 2M, 0.41 mL | CSC.B
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | iodine | 0.654 mmol, 166 mg | II | I2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.6 mL | CO | CH4O
product | tert-Butyl 3-(2-aminoethyl)azetidine-1-carboxylate | 35 mg, 53.5% | NCCC1CN(C1)C(=O)OC(C)(C)C | C10H20N2O2
